US07157464B2
Synthesis of 2-(4-Chloro-3-n-propyl-5-trifluoromethyl-pyrazol-1-yl)-1-[4-(4-chloro-3-methoxy-phenyl)-piperazin-1-yl]-ethanone
Protocol T was followed using 4-Chloro-3-n-propyl-5-trifluoromethyl-1-H-pyrazol, K2CO3, 1-[4-(4-Chloro-3-methoxyphenyl)-piperazine-1-yl]-ethanone and DMF. Column chromatography using a solvent mixture (hexane/ethyl acetate=3/7, Rf=0.78) afforded the title compound as white solid. 1H NMR (400 MHz, CDCl3); 7.22–7.24 (d, 2H), 6.42–6.48 (m, 2H), 5.7 (s, 2H), 3.8 (s, 3H), 3.72–3.78 (m, 4H), 3.22–3.42 (m, 4H), 2.66–2.72 (t, 2H), 1.58–1.68 (m, 2H), 0.98–1.02 (t, 3H). 13C NMR (400 MHz, CDCl3): 164, 154.8, 150.5, 130, 109.8, 102.2, 56.4, 52.8, 50, 49.8, 45.2, 42.6, 26, 21.8, 14.

reactant | 4-Chloro-3-n-propyl-5-trifluoromethyl-1-H-pyrazol | ClC=1C(=NNC1C(F)(F)F)CCC | C7H8ClF3N2
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-[4-(4-Chloro-3-methoxyphenyl)-piperazine-1-yl]-ethanone | ClC1=C(C=C(C=C1)N1CCN(CC1)C(C)=O)OC | C13H17ClN2O2
reactant | DMF | CN(C)C=O | C3H7NO
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 2-(4-Chloro-3-n-propyl-5-trifluoromethyl-pyrazol-1-yl)-1-[4-(4-chloro-3-methoxy-phenyl)-piperazin-1-yl]-ethanone | ClC=1C(=NN(C1C(F)(F)F)CC(=O)N1CCN(CC1)C1=CC(=C(C=C1)Cl)OC)CCC | C20H23Cl2F3N4O2
